US08058431B2
1) 6-Methoxy-1H-benzo(d)(1,3)oxazine-2,4-dione
5.00 g (21.6 mmol) 2-Bromo-5-methoxy-benzoic acid, 620 mg (4.32 mmol) copper (I) bromide and 2.63 g (32.4 mmol) potassium cyanate were dissolved in pyridine and boiled for 30 min. The solvent was removed and the residue was dissolved in 150 ml 2N hydrogen chloride acid and 150 ml ethyl acetate. The organic solvent was treated with water and brine, dried over magnesium sulfate and removed. The residue was digested with methanol.

reactant | 2-Bromo-5-methoxy-benzoic acid | 21.6 mmol, 5.00 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | potassium cyanate | 32.4 mmol, 2.63 g | [O-]C#N.[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | copper (I) bromide | 4.32 mmol, 620 mg | [Cu]Br
product | 6-Methoxy-1H-benzo(d)(1,3)oxazine-2,4-dione | COC1=CC2=C(NC(OC2=O)=O)C=C1 | C9H7NO4
